US04208204
A solution of 1.78 g. (0.01 moles) of 3-hydroxy-3-methylglutaric acid monoamide, ammonium salt in 50 ml of water is passed through a 100 ml column of Dowex 50 (H+) resin. The resulting eluate is then evaporated to dryness to afford 3-hydroxy-3-methylglutaric acid monoamide.

reactant | 3-hydroxy-3-methylglutaric acid monoamide, ammonium salt | 0.01 moles | [NH4+].OC(CC(=O)N)(CC(=O)[O-])C
solvent | water | 50 ml | O | H2O
product | 3-hydroxy-3-methylglutaric acid monoamide | OC(CC(=O)N)(CC(=O)O)C | C6H11NO4
